US07265144B2
Step 2: Preparation of isopropyl 5-methoxy-2-[(1-phenyl-1H-pyrazol-5-yl)amino]benzoate
Cesium carbonate (105 mg, 0.19 mmol) and 2-iodopropane (18 mg, 0.11 mmol) were added to a solution of the intermediate 5-methoxy-2-[(1-phenyl-1H-pyrazol-5-yl)amino] benzoic acid (30 mg, 0.10 mmol) in DMF (4 mL). The mixture was stirred at rt for 16 h. The reaction was quenched with water (5 mL) and then extracted with dichloromethane (3×5 mL). The combined organic layers were washed with water (5 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure. HPLC purification of the residue (YMC propack C18 column, 150×20 mm ID, 30%-80% acetonitrile in water gradient) afforded the desired product as a white solid (20 mg, 59%). 1H NMR (300 MHz, DMSO-d6) δ 9.07 (s, 1H), 7.65 (d, 1H), 6.96-7.56 (m, 9H), 6.29 (dd, 1H), 5.06 (q, 1H), 3.69 (s, 3H), 1.24 (d, 6H); ES-MS m/z 352.1 (MH+); HPLC RT (min) 3.53.

reactant | Cesium carbonate | 0.19 mmol, 105 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-iodopropane | 0.11 mmol, 18 mg | IC(C)C | C3H7I
reactant | 5-methoxy-2-[(1-phenyl-1H-pyrazol-5-yl)amino] benzoic acid | 0.10 mmol, 30 mg | COC=1C=CC(=C(C(=O)O)C1)NC1=CC=NN1C1=CC=CC=C1 | C17H15N3O3
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | isopropyl 5-methoxy-2-[(1-phenyl-1H-pyrazol-5-yl)amino]benzoate | 20 mg, 59% | COC=1C=CC(=C(C(=O)OC(C)C)C1)NC1=CC=NN1C1=CC=CC=C1 | C20H21N3O3
